US06436929B1
3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-methyl-benzonitrile was prepared, from (4,4-dimethyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid and 3-bromo-5-methylbenzonitrile according to the procedure of Example 5, as a white solid: mp 256-258° C.; 1H-NMR (DMSO-d6) δ10.4 (s, 1H), 7.99 (s, 1H), 7.86 (s, 1H), 7.67-7.62 (m, 3H), 6.97 (d, 1H, J=8.11 Hz), 2.42 (s, 3H), 1.68 (s, 6H); MS (APCI) m/z 293 ([M+H]+, 100%); Anal. Calc. For C18H16N2O2: C, 73.96; H, 5.52; N, 9.58. Found: C, 73.26; H, 5.46; N, 9.24.

reactant | (4,4-dimethyl-1,4-dihydro-2-oxo-2H-3,1-benzoxazin-6-yl)boronic acid | CC1(OC(NC2=C1C=C(C=C2)B(O)O)=O)C | C10H12BNO4
reactant | 3-bromo-5-methylbenzonitrile | BrC=1C=C(C#N)C=C(C1)C | C8H6BrN
product | 3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-methyl-benzonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=C(C2)C)C | C18H16N2O2
